US07189738B2
5-Chloro-N-{1,3-dioxo-2-[1-(2-pyridinyl)-4-piperidinyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide
100 mg (0.257 mmol) of 5-chloro-N-[1,3-dioxo-2-(4-piperidinyl)-2,3-dihydro-1H-isoindol-4-yl]-2-thiophenecarboxamide and 0.05 ml (0.513 mmol) of 2-bromopyridine in 0.5 ml of pyridine are stirred at 110° C. for 48 h. The mixture is concentrated and dried under high vacuum. The product is isolated by preparative RP-HPLC.

reactant | 5-chloro-N-[1,3-dioxo-2-(4-piperidinyl)-2,3-dihydro-1H-isoindol-4-yl]-2-thiophenecarboxamide | 0.257 mmol, 100 mg | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)C1CCNCC1)=O | C18H16ClN3O3S
reactant | 2-bromopyridine | 0.513 mmol, 0.05 ml | BrC1=NC=CC=C1 | C5H4BrN
solvent | pyridine | 0.5 ml | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-N-{1,3-dioxo-2-[1-(2-pyridinyl)-4-piperidinyl]-2,3-dihydro-1H-isoindol-4-yl}-2-thiophenecarboxamide | ClC1=CC=C(S1)C(=O)NC1=C2C(N(C(C2=CC=C1)=O)C1CCN(CC1)C1=NC=CC=C1)=O | C23H19ClN4O3S
